US06972287B1
Step B (Scheme 1): Preparation of 4-[2-(3,4-Dimethoxy-phenyl)ethyl]-phenylamine
1,2-Dimethoxy-4-[2-(4-nitrophenyl)ethenyl]benzene (12.1 g, 0.042 mol) was reduced in the presence of 10% Pd—C (2.0 g) in dimethylformamide (DMF) (120 mL) at 25° C. under a hydrogen atmosphere. The reaction mixture was concentrated in vacuo to give a solid. The solid was recrystallized from MeOH (400 mL) to yield a white crystalline product, 6.8 g (0.026 mol, 63%) of the desired product. mp 115-116° C.

reactant | 1,2-Dimethoxy-4-[2-(4-nitrophenyl)ethenyl]benzene | 0.042 mol, 12.1 g | COC1=C(C=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-])OC | C16H15NO4
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
catalyst | Pd—C | 2.0 g | [Pd] | Pd
product | 4-[2-(3,4-Dimethoxy-phenyl)ethyl]-phenylamine | 0.026 mol, 6.8 g, 63% | COC=1C=C(C=CC1OC)CCC1=CC=C(C=C1)N | C16H19NO2
